US06727232B2
16-[(R)-{(2S,3S,4R,5R)-5-[2,4-Dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}({(3R,4S,5R)-4-hydroxy-3-methoxy-5-[(pentylamino)methyl]tetrahydro-2-furanyl}oxy)methyl]-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-15-pentyl-3,5,8,11,15-pentaazaheptadecane-1,17-dioic Acid
To a solution of 50 mg (53 μmol) 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid (λmax nm in water=259) in 0.4 ml of methanol is added 9.5 mg (2.0 eq., 110 μmol) of valeraldehyde and 3.3 mg (1.0 eq., 53 μmol) of sodium cyanoborohydride. After stirring for 5 minutes, 0.04 ml of 1 N methanolic hydrochloric acid is added. The reaction mixture is then stirred for 0.5 hour (the reaction is monitored by MS). The solvent is removed under reduced pressure to give a yellow gum. The desired product is identified by LC/MS and separated by preparative HPLC to give 4.9 mg (9.0% yield) of the desired product as a white solid.

reactant | 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid | 53 μmol, 50 mg | NCC1C(C(C(O1)OC(C(NCCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)C(=O)O)C1OC(C(C1O)O)N1C(NC(C=C1)=O)=O)OC)O | C38H63N11O17
reactant | valeraldehyde | 110 μmol, 9.5 mg, 2.0 eq. | C(CCCC)=O | C5H10O
reactant | sodium cyanoborohydride | 53 μmol, 3.3 mg, 1.0 eq. | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1 N, 0.04 ml | Cl | ClH
solvent | methanol | 0.4 ml | CO | CH4O
product | 16-[(R)-{(2S,3S,4R,5R)-5-[2,4-Dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}({(3R,4S,5R)-4-hydroxy-3-methoxy-5-[(pentylamino)methyl]tetrahydro-2-furanyl}oxy)methyl]-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-15-pentyl-3,5,8,11,15-pentaazaheptadecane-1,17-dioic Acid | O=C1N(C=CC(N1)=O)[C@H]1[C@@H]([C@@H]([C@H](O1)[C@@H](C(N(CCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)CCCCC)C(=O)O)OC1O[C@@H]([C@@H]([C@H]1OC)O)CNCCCCC)O)O | C48H83N11O17
